US06884821B1
0.50 g of 5-[2-(ethoxycarbonyl)butyl]-2-methoxybenzoic acid was dissolved in 8 ml tetrahydrofuran, and 0.20 ml ethyl chloroformate and 0.29 ml triethylamine were added under ice-cooling. After the reaction solution was stirred for 10 minutes under ice-cooling, insoluble matters were filtered off. The mother liquor was ice-cooled again, and 10 L water and 136 mg sodium borohydride were added, and the mixture was stirred at room temperature for 2 hours. Water was added to the reaction product, followed by extracting with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and the solvent was evapoarated. The residue was subjected to silica gel column chromatography, and from fractions eluted with hexane-ethyl acetate (3:1), 0.47 g of ethyl 2-[3-(hydroxymethyl)-4-methoxybenzyl]butanoate was obtained.

reactant | 5-[2-(ethoxycarbonyl)butyl]-2-methoxybenzoic acid | 0.50 g | C(C)OC(=O)C(CC=1C=CC(=C(C(=O)O)C1)OC)CC | C15H20O5
reactant | ethyl chloroformate | 0.20 ml | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 0.29 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | ethyl 2-[3-(hydroxymethyl)-4-methoxybenzyl]butanoate | 0.47 g | OCC=1C=C(CC(C(=O)OCC)CC)C=CC1OC | C15H22O4
